US06784167B2
A mixture of 2-thiopheneboronic acid (0.483 g, 3.78 mmol), 2-bromo-5-methylpyridine (0.5 g, 2.91 mmol), a solution of Na2CO3 (1M in H2O, 7.8 mL, 7.8 mmol) and a catalytic amount of Pd(PPh3)4 in DME (10 mL) was heated at the reflux temperature for 3 h., then allowed to cool to room temperature and poured onto ice. The resulting mixture was stirred for 10 min and extracted with CH2Cl2 (2×25 mL), dried (MgSO4) and concentrated under reduced pressure. The crude product was purified by flash chromatography (70% EtOAc/hex) to give 2-(5-methyl-2-pyridyl)thiophene (0.499 g, 98%): GC-MS m/z (rel abundance) 176 (MH+, 100%); 1H NMR (CDCl3) δ 1.39 (s, 3H), 7.15 (m, 1H), 7.39 (m, 1H), 7.61-7.43 (m, 3H), 8.41 (s, 1H).

reactant | 2-thiopheneboronic acid | 3.78 mmol, 0.483 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | 2-bromo-5-methylpyridine | 2.91 mmol, 0.5 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | Na2CO3 | 7.8 mmol, 1M, 7.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-methyl-2-pyridyl)thiophene | 0.499 g, 98% | CC=1C=CC(=NC1)C=1SC=CC1 | C10H9NS
